US05917041
4,6-Dichloro-2,5-bis-{[(dimethylamino)methylene]amino}pyrimidine
2,5-Diamino-4,5-dihydroxypyrimidine hemisulfate (Sigma, 25.0 g, 0.131 mole) was stirred in chloroform (AR Mallinckrodt, 400 mL) in a 2 L-3-necked round bottom flask equipped with a reflux condenser (with source of nitrogen connected to the top of the condenser) and an exit for HCl gas connecting another neck of the flask to a NaOH trap. (Chloromethylene)dimethyl ammonium chloride (Vilsmeier reagent, Aldrich, 88.0 g, 0.651 mole as 95%) was washed into the flask with additional chloroform (400 mL). The reaction mixture was brought cautiously to reflux with nitrogen sweeping the HCl evolved into the trap. When the evolution of HCl slowed after about 1 hour of reflux, the sweep was stopped and the reaction kept under a gentle positive pressure of nitrogen from that point. Additional Vilsmeier reagent (50.0 g, 0.370 mole) was added after 24 hours and reflux continued for an additional 20 hours. The stirred reaction mixture (yellow solution with dark yellow solid) was cooled (ice bath) and diluted with water (sufficient to dissolve the solid, ca. 300 mL). The aqueous layer was adjusted to pH 7 with sodium hydroxide or solid sodium carbonate. The chloroform layer was separated, washed with water (3×400 mL), dried (sodium sulfate), and concentrated in vacuo to a dark yellow solid (36 g). This solid was dissolved in ethyl acetate (300 mL), stirred with charcoal (1 g), and filtered with a silica gel pad (3×3 in, packed in ethyl acetate). The pad was washed with additional ethyl acetate and eluents concentrated in vacuo to leave the title compound as a light tan solid (30.75 g, 81%); m.p. 116-119° C., 1H-NMR identical to that of recrystallized samples.

reactant | 2,5-Diamino-4,5-dihydroxypyrimidine hemisulfate | 0.131 mole, 25.0 g | S(=O)(=O)(O)O.NC=1N=CC(C(N1)O)(O)N.NC=1N=CC(C(N1)O)(N)O
reactant | HCl | Cl | ClH
reactant | (Chloromethylene)dimethyl ammonium chloride | 0.651 mole, 88.0 g | [Cl-].ClC=[N+](C)C
reactant | Vilsmeier reagent | 0.370 mole, 50.0 g | C[N+](=CCl)C.[Cl-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 400 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 400 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 4,6-Dichloro-2,5-bis-{[(dimethylamino)methylene]amino}pyrimidine | 30.75 g, 81% | ClC1=NC(=NC(=C1N=CN(C)C)Cl)N=CN(C)C | C10H14Cl2N6
